Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Demerol / Codeine / Tape ___ / Morphine
 
Attending: ___.
 
Chief Complaint:
Worsening abd pain for one week
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old female with chronic pancreatitis 
who presents with a flare of her chronic pancreatitis pain which 
she attributes to drinking wine at a celebratory event a few 
days prior to presentation.

Pt reported taht since she was discharged from the last last 
hospitalization on ___ because of the flare of chronic 
pancreatitis, she felt fine although she had chronic mild middle 
abd pain until one week ago when she felt worsening middle abd 
pain after she drank one glass of wine.  The pain was constant 
and dull in nature and slowly build up.  It located in her upper 
middle abd and across her abd like belt and radiated to her 
back, which is exact like her previous episode of chronic 
pancreatitis flare.  Eating could aggravate the pain and leaning 
forward can slightly relieve the pain.  She complained about 
mild nausea with no vomiting.  She denied abd bloating diarrhea. 
 In contrast, she has chronic constipation. Her last BM took 
place two days ago with hard brownish stool.  She denied BRBPR 
or melena.  She denied dysphagia or heartburn.

Regarding her pancreatitis, she is followed by Dr. ___.  She 
received relative extensive work up to search the etiology of 
chronic pancreatitis, including MRCP with Secretin and EUS and 
ERCP.  She also had normal triglycerides, normal Ca, normal LFT, 
and normal CF mutation test.  However, interestingly, she had 
abnormal Ig G4 that raised the concern of autoimmune 
pancreatitis.  She had been treated with prednisone for ___ 
months for autoimmune pancreatitis.  However, reportedly, she 
did not feel better in terms of abd pain.  Prednisone was 
stopped.    

ROS: no fever, chill, rash, numbness, weakness, jaundice, weight 
loss, muscle-joint pain.  no CP, SOB, cough, dysuria, or 
urgency.  
Current VS: 
72, 124/83, RR = 18, 98% on RA 
 
Past Medical History:
1) Recurrent pancreatitis: Started after partial pancreatectomy 
in ___.  Then no recurrent until ___.  Was hospitalized in 
___ for pancreatitis, underwent an ERCP with sphincterotomy and 
stent placement in panc duct.  Further episodes in ___ 
with same ERCP again and stent extension.  In ___, another bout 
of acute pancreatitis, but ERCP this time showed no duct 
stenosis.  
2) Hemolytic anemia: reaction to Keflex, treated with 
splenectomy in ___.
3) s/p ccy in ___
4) s/p appy in ___
5) Asthma: mild intermittent, uses no meds at baseline
6) hypothyroidism
7) s/p tubal ligation
8) Depression
9) Right UE DVT in the setting of central line, on coumadin 
since ___, per PCP to continue on it at this time
 
Social History:
___
Family History:
Mother with diabetes, osteoporosis, hypertension, 
hypothyroidism, chronic pain.
 
Physical Exam:
VS: T 99.8, BP 135/87 P 63, R 18 SaO2 98%
GEN: AOx3, NAD
HEENT:  PERRLA. MMM. no LAD. no JVD. neck supple. 
Cards: RRR S1/S2 normal. no murmurs/gallops/rubs.
Pulm: No dullness to percussion, CTAB no crackles or wheezes
Abd: soft, mild distend, tender in her middle upper abd with ? 
rebound tenderness, BS decreased.
Extremities: wwp, no edema. DPs, PTs 2+.
Skin: no rashes or bruising
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities. 
DTRs 2+ ___.  sensation intact to LT, cerebellar fxn intact (FTN, 
HTS). gait WNL. 

 
Pertinent Results:
___ 08:45PM   GLUCOSE-123* UREA N-6 CREAT-0.8 SODIUM-141 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-30 ANION GAP-12
___ 08:45PM   estGFR-Using this
___ 08:45PM   ALT(SGPT)-10 AST(SGOT)-19 LD(LDH)-118 ALK 
PHOS-87 TOT BILI-0.6
___ 08:45PM   LIPASE-44
___ 08:45PM URINE  HOURS-RANDOM
___ 08:45PM URINE  UCG-NEGATIVE
___ 08:45PM   WBC-10.9 RBC-4.28# HGB-12.9# HCT-38.0# MCV-89 
MCH-30.2 MCHC-34.0 RDW-13.1
___ 08:45PM   NEUTS-65.7 ___ MONOS-6.5 EOS-2.9 
BASOS-1.0
___ 08:45PM   PLT COUNT-434
___ 08:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
.

MRCP with secrtein (___):
1. Mild intrahepatic and pancreatic ductal dilatation, similar 
to CT 
appearance from ___, however, increased from MRCP ___. Though the changing appearance of biliary system is 
unusual, the dilation of the pancreatic and biliary systems 
without a mass lesion raises the possibility of an ampullary 
stricture. 
2. Small bowel and pancreatic head malrotation. Stable changes 
status post distal pancreatectomy. Prompt emptying of the 
pancreatic duct following secretin administration. 
.
EUS ___
Pancreas parenchyma and duct showed changes c/w chronic 
pancreatitis.

___ 08:00AM BLOOD WBC-7.7 RBC-3.93* Hgb-11.7* Hct-35.5* 
MCV-90 MCH-29.7 MCHC-33.0 RDW-12.7 Plt ___
___ 08:10AM BLOOD WBC-7.4 RBC-3.72* Hgb-11.4* Hct-33.1* 
MCV-89 MCH-30.6 MCHC-34.5 RDW-13.4 Plt ___
___ 07:45AM BLOOD WBC-7.8 RBC-3.77* Hgb-11.6* Hct-33.7* 
MCV-89 MCH-30.6 MCHC-34.3 RDW-13.3 Plt ___
___ 08:00AM BLOOD Glucose-98 UreaN-8 Creat-0.9 Na-140 K-4.6 
Cl-103 HCO3-29 AnGap-13
___ 07:55AM BLOOD Glucose-137* UreaN-4* Creat-0.8 Na-139 
K-3.8 Cl-104 HCO3-27 AnGap-12
___ 08:35AM BLOOD Glucose-97 UreaN-5* Creat-0.8 Na-141 
K-4.0 Cl-106 HCO3-29 AnGap-10
___ 08:30AM BLOOD Glucose-90 UreaN-4* Creat-0.7 Na-139 
K-4.1 Cl-105 HCO3-27 AnGap-11
___ 07:25AM BLOOD ALT-5 AST-15 AlkPhos-81 Amylase-62 
TotBili-0.5
___ 08:45PM BLOOD ALT-10 AST-19 LD(LDH)-118 AlkPhos-87 
TotBili-0.6
___ 07:25AM BLOOD Lipase-57
___ 08:45PM BLOOD Lipase-44
___ 07:55AM BLOOD Calcium-9.4 Phos-3.8 Mg-2.0
___ 07:10AM BLOOD Phos-4.3
___ 07:25AM BLOOD TSH-72*
___ 08:30AM BLOOD Free T4-0.72*
___ 07:25AM BLOOD ___ * Titer-1:___ssessment/Plan: Pt is a ___ y.o female with h.o recurrent 
pancreatitis, asthma, hypothyroidism who presented with 
epigastric pain c/w prior episodes of pancreatitis.  
.  
#acute on chronic pancreatitis. Pt with extensive w/u in the 
past by GI for etiology. AT one time thought to be due to 
autoimmune pancreatitis. Pt did have ETOH prior to this 
exacerbation which could have been the trigger. Pt reports 
improvement in her symptoms. Her outpatient GI provider was 
emailed by her caregivers. ___ found to be positive, at titer 
1:40, IgG levels normal. She can follow up the significance of 
this, likely none, with her outpatient GI provider. Pt's diet 
was advanced slowly and she was tolerating a regular diet by 
time of discharge. She was given antiemetics and dilaudid for 
pain.  
.
#hypothyroidism-Pt was continued on her outpatient synthyroid. 
TSH elevated. FT4 slightly low at 0.72 but will defer to 
outpatient setting for any medication adjustment so labs and 
symptoms can be appropriately followed.  
.  
#anemia-normocytic-baseline ___. Currently within baseline. 
Prior labs have shown anemia of chronic disease. Pt's HCT 
remained stable and she did not show signs of bleeding. 
.  
#depression-continued celexa.  
.  

 
Medications on Admission:
Baased on OMR (pt could not recall the dose):
celexa 60mg PO daily
Hydromorphone 4 mg  PO Q4hr PRN
Levothyroxine 150 mcg PO daily
Docusate Sodium 100 mg  PO BID 
Senna 8.6 mg Two Tablet PO BID
fentanyl patch 75mcg/hr Q3 days 
 
Discharge Medications:
1. hydromorphone 4 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for severe pain: do not drive when taking this 
medication.
Disp:*30 Tablet(s)* Refills:*0*
2. prochlorperazine maleate 5 mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for nausea.
Disp:*20 Tablet(s)* Refills:*0*

ADvised to continue other home medications as prior to admission
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute on chronic pancreatitis
abdominal pain
hypothyroidism
normocytic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with abdominal pain that was felt to be 
related to  your pancreatitis. For this, you were given IV 
fluids and medication for pain and nausea. Your symptoms 
improved and you were tolerating a regular diet by discharge.
.
You have a very mild anemia. You should continue to follow up 
with your PCP for monitoring and discuss whether you may need a 
colonoscopy.
.
Your thyroid medication, may need to be adjusted by your primary 
care physician, please keep your scheduled follow up with your 
PCP next week and have your thyroid levels checked.
.
Medication changes:
1.you may take dilaudid for pain. Please do not drive or operate 
heavy machinery when taking this medication. 
2.you may take compazine for nausea.
3.discuss with your PCP whether you need to adjust your 
levothyroxine dosing.

NONE of your other medications were changed. 
.
Please take all of your medications as prescribed and follow up 
with the appointments below.
 
Followup Instructions:
___